US05723483
2-Chloro-4-hydrazinobenzonitrile hydrochloride.
5 g of 4-amino-2-chlorobenzonitrile and 40 ml of concentrated HCl in 30 ml of THF are mixed at -5° C.; 2.26 g of NaNO2 in 30 ml of water are added and the mixture is left stirring for 2 hours, 30 g of SnCl2 ·2H2O in 30 ml of concentrated HCl are then added and stirring is maintained at -5° C. for 30 minutes.

reactant | 4-amino-2-chlorobenzonitrile | 5 g | NC1=CC(=C(C#N)C=C1)Cl | C7H5ClN2
reactant | NaNO2 | 2.26 g | N(=O)[O-].[Na+]
reactant | SnCl2 | 30 g | Cl[Sn]Cl
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
solvent | HCl | 30 ml | Cl | ClH
solvent | HCl | 40 ml | Cl | ClH
product | 2-Chloro-4-hydrazinobenzonitrile hydrochloride | Cl.ClC1=C(C#N)C=CC(=C1)NN | InChI=1S/C7H6ClN3.ClH/c8-7-3-6(11-10)2-1-5(7)4-9;/h1-3,11H,10H2;1H
